US08049015B2
2-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzaldehyde and (5-bromo-pyridin-3-yl)-acetic acid methyl ester were reacted as described in Example 8, Step 4 to provide [5-(2-formyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid methyl ester.

reactant | 2-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzaldehyde | CC1(OB(OC1(C)C)C1=C(C=O)C=C(C=C1)C(F)(F)F)C | C14H16BF3O3
reactant | (5-bromo-pyridin-3-yl)-acetic acid methyl ester | COC(CC=1C=NC=C(C1)Br)=O | C8H8BrNO2
product | [5-(2-formyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid methyl ester | COC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C16H12F3NO3
